US09034486B2
Step 1: Synthesis of N-(3-Bromobenzoyl)-N-(1-isoquinolyl)hydrazine
To a 200-mL three-neck flask were added 3.3 g (20 mmol) of 1-chloroisoquinoline, 4.3 g (20 mmol) of 3-bromobenzoylhydrazine, and 80 mL of para-xylene. This mixture was refluxed at 150° C. for 14 hours under a nitrogen stream. After a predetermined time elapsed, this mixture was cooled to room temperature, and the precipitated solid was collected by suction filtration. The obtained solid was washed with toluene, a saturated aqueous solution of sodium hydrogen carbonate, and water. This solid was dried, so that the substance which was the object of the synthesis was obtained as 6.2 g of a pale yellow powder in 90% yield.

reactant | 1-chloroisoquinoline | 20 mmol, 3.3 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | 3-bromobenzoylhydrazine | 20 mmol, 4.3 g | BrC=1C=C(C(=O)NN)C=CC1 | C7H7BrN2O
solvent | para-xylene | 80 mL | C1(=CC=C(C=C1)C)C | C8H10
product | N-(3-Bromobenzoyl)-N-(1-isoquinolyl)hydrazine | 6.2 g, 90% yield | BrC=1C=C(C(=O)N(N)C2=NC=CC3=CC=CC=C23)C=CC1 | C16H12BrN3O
